US07566733B2
1-(5,6-Dimethoxy-1H-benzoimidazol-2-yl-)2,2,2-trifluoro-ethanol
4,5-Dimethoxy-benzene-1,2-diamine (2.02 g; 12.0 mmoles) and 3,3,3-trifluoro-2-hydroxy-propionic acid (2.67 g; 18.5 mmoles) were suspended in 6N HCl (5 mL; 30 mmoles) and water (4 mL) under a nitrogen atmosphere. The reaction was stirred vigorously and heated to 108° C. for 18 hrs, then cooled to room temperature. The reaction was diluted with water (40 mL) and with ethyl acetate (40 mL), then sodium bicarbonate (3.84 g; 46.0 mmoles) was added slowly and in portions to quench the reaction. The aqueous layer was separated and extracted with ethyl acetate (3×30 mL). The extracts were combined, washed with water (30 mL) and brine (40 mL), then dried over Na2SO4. The filtrate was concentrated in vacuo to yield a crude dark orange solid which was then purified by column chromatography (SiO2; 30% ethyl acetate/CH2Cl2) to yield the title compound as a bright orange solid.

reactant | 4,5-Dimethoxy-benzene-1,2-diamine | 12.0 mmoles, 2.02 g | COC=1C=C(C(=CC1OC)N)N | C8H12N2O2
reactant | 3,3,3-trifluoro-2-hydroxy-propionic acid | 18.5 mmoles, 2.67 g | FC(C(C(=O)O)O)(F)F | C3H3F3O3
reactant | HCl | 30 mmoles, 6N, 5 mL | Cl | ClH
reactant | sodium bicarbonate | 46.0 mmoles, 3.84 g | C([O-])(O)=O.[Na+]
solvent | water | 40 mL | O | H2O
solvent | ethyl acetate | 40 mL | C(C)(=O)OCC | C4H8O2
solvent | water | 4 mL | O | H2O
product | 1-(5,6-Dimethoxy-1H-benzoimidazol-2-yl-)2,2,2-trifluoro-ethanol | COC1=CC2=C(NC(=N2)C(C(F)(F)F)O)C=C1OC | C11H11F3N2O3
